Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
new left hemianopsia with cerbral hemorrheage and edema admitted 
to ICU for medical management
 
Major Surgical or Invasive Procedure:
IVC filter
 
History of Present Illness:
___ year old male with metastatic renal cell to brain, spine, 
larynx, liver and lung, s/p avastin, recurrent pulmonary emboli 
on lovenox, presented to the ED with worsening right sided 
visual field loss. He reports intermittant blurry vision and 
flashes of light accompanied by headaches x ___ weeks with 
worsening symptoms over the past 6 days. Three days ago he had 
severe bitemporal headache which he describes as ___ and 
throbbing. Around the same time, he noted right sided 
hemianopsia with "psychadelic" flashes of light and colors. On 
the day of admission, he presented to an opthalmologist who 
performed a dialated exam and determined that his vision loss 
was not related to a primary occular lesion and recommended 
presentation to the ED.
.
.
In the ED, initial vs were: 97.3 71 143/102 22 99%. He was 
AAOx3, exam notible for right hemianopsia. CT head showed 
progression of known left occipital/parietal mass with worsening 
hemorrheage and edema (compared with MRI ___. labs notible for 
Na 129, Cr 1.4 (baseline 1.3), WBC 5.6 75% PMN, INR 1.1. 
Neurosurgery was consulted who recommended blood pressure 
control and FFP but did not recommend surgery or seizure 
prophylaxis. Patient was given dexamethasone 10mg IV and 2 units 
FFP and furosemide 20mg IV. 2 PIV. Vitals on transfer p68 
bp136/88 sao2 96% on RA.
.
Upon arrival to ICU, patient reported ___ bifrontal headache 
and continued right hemianopsia. He reported word finding 
difficulites and short term memory loss over the past weeks to 
months. 
.
Review of sytems: 
(+) increased hemoptysis in last week, and increased respiratory 
secretions
(-) Denies numbness/tingling in his extremities, denies gait 
instability, muscle weakness.Denies fever, chills, rhinorrhea or 
congestion. Denied shortness of breath. Denied chest pain. 
Denied nausea, vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits. 
 
Past Medical History:
Bilateral pulmonary emboli ___ and ___
Bilateral pulmonary embolism in ___, on long term 
warfarin 
Left lower pulmonary artery PE ___ --> changed from warfarin 
to lovenox
Resection of pulmonary metastasis ___
Resection of a subglottic metastasis requiring tracheotomy ___
Hypertension since ___
BPH since ___, 
History of colonic adenomas ___ and ___, stable
Hx of pancreatic cyst ___, stable
Stress fracture of right fibula ___
Left eye epithelial retina membrane ___ (slight distortion 
of
lines of vision)
Umbilical hernia since ___
Depression since ___
Left forearm lipoma since ___
Diverticulosis since unknown
.
Oncology History: 
- ___, left lower lobe nodule found on routine scan.
- ___, VATS procedure with resection of the lesion.
- ___, pulmonary recurrence.
- ___, pulmonary resection.
- ___, multiple new lung nodules as well as bony sclerotic
lesions and liver lesion.
- ___, one cycle of interleukin-2 therapy.
- ___, removal of excess subglottic tissue and pathology
was consistent with metastatic renal carcinoma, larynx and
subglottic metastasis resection with a permanent tracheostomy.
- ___, staging MRI mass in the posterior right
temporal lobe.
- ___, CyberKnife radiosurgery to the left
posterior temporal lobe lesion.
- ___, Sutent therapy, progressed on Sutent last dose
in ___.
- ___, gadolinium-enhanced lumbosacral spine MRI showed
left posterior vertebral body L1 metastasis.
- ___, began Avastin, temsirolimus trial ___.
- ___, taken off the trial due to progression of
disease. New nodule seen on CT scan of torso.
- ___, started Avastin monotherapy.
- ___:  Worsening back pain. MRI lumbar spine ___
showed epidural disease at L1.
- Last dose avastin ___
 
Social History:
___
Family History:
Father: congestive heart failure, Mother: leukemia.
 
Physical Exam:
Admission Physical Exam: 
Vitals: T:99.2 BP:161/91 P:67 R: 18 O2:97 RA  
General: Middle aged male appearing comfortable, occasional word 
finding difficulty. 
HEENT: EOMI PEERLA, MMM, oropharynx clear
Neck: trach collar in place, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  Obese soft, non-tender, non-distended, bowel sounds 
normoactive no hepatospleenomegaly.
GU: foley in place
Ext: warm, well perfused, 2+ pulses, no edema
.
Mental status: Awake and alert, cooperative with exam, normal
affect. Poor short term memory ___ recall at 5 min) Poor 
concentration (unable to perform serial 7’s)
Orientation: oriented to person, hospital, ___ to 
person, place, and date.
Language: occasional word finding difficulty. 
.
Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to 4 mm 
bilaterally. Right homonymous hemianopsia is noted. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
.
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout. No pronator drift
.
Cerebellum: intact heel to shin, no dysdiadokinesia
.
Sensation: Intact to light touch, 
DTRs: 3+ Bilaterally in patella and biceps tendons.
Babinski downgoing bilaterally
.
On Discharge:
Vitals: 96.3 BP: 148/71, HR: 50, RR: 18, O2 93% RA 
General: NAD,  
HEENT: EOMI PEERLA, MMM, oropharynx clear, right temporal visual 
field hemianopsia (stable)
Neck: JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  Obese soft, non-tender, non-distended, bowel sounds 
normoactive no hepatosplenomegaly.
Ext: warm, well perfused, 2+ pulses, no edema
Neuro: CN II-XII intact, Normal tone bilaterally. No abnormal 
movements, tremors. Strength full power ___ throughout. No 
pronator drift
 
Pertinent Results:
Admission labs (___):
-WBC-5.3 RBC-4.42* Hgb-14.7 Hct-41.2 MCV-93 MCH-33.3* MCHC-35.7* 
RDW-14.9 Plt ___ Neuts-75.5* Lymphs-16.8* Monos-6.3 Eos-0.3 
Baso-1.1
-___ PTT-27.0 ___
-___
-LMWH-1.16
-Glucose-117* UreaN-18 Creat-1.4* Na-129* K-4.5 Cl-98 HCO3-21* 
AnGap-15
-Calcium-9.8 Phos-1.3* Mg-2.0
-Osmolal-276
-TSH-3.7
-Cortisol-15.6
.
Discharge Labs:
- WBC-8.4 RBC-4.55* Hgb-14.9 Hct-42.8 MCV-94 MCH-32.7* MCHC-34.7 
RDW-14.5 Plt ___
- Glucose-100 UreaN-21* Creat-1.0 Na-136 K-4.4 Cl-104 HCO3-22 
AnGap-14
- Calcium-8.8 Phos-2.6* Mg-2.4
.
___ CXR: Innumerable pulmonary nodules, relatively stable 
compared to next preceding CT, compatible with metastases. No 
focal opacification concerning for pneumonia. 
.
___ Admission CT Head: New intraparenchymal hemorrhage with 
surrounding edema and mass effect centered on previous left 
median occipital lobe metastasis. 
.
___ Repeat CT Head: 1. Stable left occipital intraparenchymal 
hemorrhage with stable edema and mass effect. 
.
___: Duplex U/S bilaterally: No evidence of DVT in the right 
or left lower extremity.
.
___: MR HEAD: IMPRESSION: The left parietooccipital 
hemorrhage is grossly similar in size compared with the CT of 
the head performed ___. The surrounding mass effect 
is not significantly changed. The ventricles are stable in size 
and are not enlarged. The post-contrast sequence does not 
demonstrate other foci of post-contrast T1 hyperintensity within 
the brain parenchyma to suggest other lesion. The hemorrhage 
produces intrinsic T1 hyperintensity which could mask underlying 
enhancing lesion as seen on the prior MRI in ___ of this 
year. 
 
Brief Hospital Course:
___ year old man with metastatic renal cell carcinoma admitted 
with progressive headaches and right hemanopsia and found to 
have worsening hemorrhagic mass in the left parietal/occipital 
region and admitted to the ICU for medical management.
.
# Hemorrhagic brain metastasis: Patient with renal cell 
carcinoma, known brain metastasis, and currently on Lovenox for 
anticoagulation. Head CT on admission was remarkable for an 
enlarged edematous and hemorrhagic mass extending into the 
occipital and parietal lobes, which explained right homonymous 
hemianopsia. Anticoagulation was stopped and Neurosurgery was 
was consulted, who recommended no intervention until greater 
than 2 weeks after his last dose of Avastin. He was admitted to 
the FICU and monitored with serial neuro checks. Head CT was 
repeated which showed no progression for hemorrheage/edema. His 
blood pressure was initially controlled with a Nicardipine gtt 
(goal sBP 120-140) and his head of bed was maintained >30 
degrees. Repeat CT head imaging was stable. Per Neuro-Oncology 
he was started on Nimodipine for prevention of vasospasm, Keppra 
for seizure prophylaxis, and his Dexamethasone was decreased 
from 6 mg to 4 mg q6h. He remained stable and was transferred to 
the OMED service for further management.  His Dexamethasone was 
tapered and he was discharged on Dexamethasone 4mg Daily.  
Repeat MRI on ___ showed stable intracranial process.  On 
___ he had an episode of hypertension and was otherwise 
asymptomatic.  He was restarted on his home medications - 
hydrochlorothiazide 25mg PO daily and metoprolol tartrate 50mg 
PO BID.  His nimodipine was changed to PRN, but he did not 
require any doses and was not continued at the time of 
discharge.  His Right Homonymous hemianopsia persisted and is 
not expected to resolve.
.
# Increased intracranial pressure: Patient complained of 
worsening headache on admission and was bradycardic and 
hypertensive ___ components of ___ triad). HOB was 
maintained >30. Headache improved and experienced no change in 
neurologic examination to suggest herniation or increased ICP. 
Bradycardia and hypertension resolved. 
.
# Hypertension: Given concern for acute hemorrheage we aimed to 
maintain SBP 120-140. This was initially achieved with a 
Nicardipine gtt, which was turned off on hospital day 2. He was 
also initially continued on his outpatient Metoprolol Tartrate 
50 BID, which was held in the setting of starting Nimodipine for 
vasospasm to prevent relative hypotension.  On ___ he had an 
episode of hypertension and was otherwise asymptomatic.  He was 
restarted on his home medications - hydrochlorothiazide 25mg PO 
daily and metoprolol tartrate 50mg PO BID.  His nimodipine was 
changed to PRN, but he did not require any doses and was not 
continued at the time of discharge.  
.
# Pulmonary embolisms: Patient has a history of recurrent 
pulmonary emboli, and was previously anticoagulated with 
warfarin and then changed to Lovenox ___. Given hemorrhagic 
brain mets, future anticoagulation is contraindicated. Bilateral 
lower extremity ultrasounds were negative for DVT. He underwent 
placement of an IVC filter on ___ by Interventional Radiology 
to prevent future clot propogation. 
.
# Hemoptysis: Possibly related to multiple pulmonary metastasis 
in the setting of anitcoagulation. New pulmonary embolism is 
unlikely given absence of tachycardia or hypoxia. He was 
provided with humidified oxygen. His O2 saturations remained 
adequate on room air. 
.
# Acute on Chronic Kidney disease: Baseline Cr appears to be 
1.3-1.4. The patient's Cr was at baseline on admission, and 
increased in the setting of diuresis. He was bolused 500 cc of 
NS and repeat electrolytes revealed improvement in creatinine.  
His creatinine remained stable for the rest of his hospital 
stay. 
.
# Hyponatremia: Thought to be secondary to SIADH given 
underlying intracranial and pulmonary disease. Serum cortisol 
was normal. Urine lytes revealed sodium avidity with a highly 
concentrated urine, likely a mixed picture (dehydration with 
underlying SIADH). He was given IVFs with subsequent improvment 
in sodium.  At the time of discharge his Na was 136.
.
# Metastatic Renal Cell Carcinoma: Patient diagnosed with RCC 
after biopsy of metastatic pulmonary lesion. He has metastatic 
involvment of brain, spinal cord, lungs and larynx. In ___ he 
was treated with tracheostomy for laryngeal mass. Admission 
chest xray showed worsening of pulmonary metastatic disease.  
His hemorrhagic brain mass has been well controlled with steroid 
therapy.  He has stabilized since admission and is doing well.  
He will continue to receive dexamethasone in the outpatient 
setting and follow up with his outpatient oncologists.
.
# Chronic low back pain with neuropathy: Patient is on 
gabapentin and oxydonone for chronic low back pain and 
neuropathy. Gabapentin was initially held on admission to avoid 
sedating medications and pain was controled with oxycodone + 
oxycontin at home dose.  His pain was relatively well controlled 
and his gabapentin was restarted at the time of discharge.
. 
Code: Full confirmed 
Communication: Patient, Wife ___
 
Medications on Admission:
Belacizumab - 25mg/mL Solution - 10 mg/kg every 2 weeks
Diphenhydramine - 25 mg ___ Capsule(s) by mouth at bedtime as 
needed
ENOXAPARIN 120mg Q12Hours 
Fenofibrate 200mg Daily
Finsasteride 5 mg Daily
Gabapentin 300 mg Capsule BID
Gabapentin 500 mg Capsule QHS
Hydrochlorothiazide 25 mg QAM
Terazosin 5 mg daily
Metoprolol tartarate 50 mg BID
Omeprazole 20 mg BID
Oxycodone 5 mg ___ Tabs Q4h PRN
Oxycodone SR 10 mg Tablet 1 tab Q8H
Trazodone 50 mg Tablet QHS
Aacetaminophen 500mg-1000mg Q6-8 Hours PRN pain
Calcium carbonate Dosage uncertain
Calcium citrate Vitamin D3 315 mg-200 unit 2tabs daily
Ergocalciferol 1000 unit Capsule daiy
Fiber 4 tabs per day
Multivitamin daily 
OMEGA-3 FATTY ACIDS 1,200 mg-144 mg daily
Senossides/docusate 8.6 mg/50 mg Tablet - 2 Tablet(s) by mouth 
TID
 
Discharge Medications:
1. AVASTIN 25 mg/mL Solution Sig: Ten (10) mg/kg Intravenous 
Q2week.  
2. Benadryl 25 mg Capsule Sig: ___ Capsules PO at bedtime as 
needed for insomnia.  
3. fenofibrate 50 mg Capsule Sig: Four (4) Capsule PO once a 
day.  
4. finasteride 5 mg Tablet Sig: One (1) Tablet PO at bedtime.  
5. gabapentin 300 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
6. gabapentin 100 mg Capsule Sig: Five (5) Capsule PO at 
bedtime.  
7. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
8. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
10. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
11. oxycodone 10 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q8H (every 8 hours).  
12. trazodone 50 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
13. Tylenol Extra Strength 500 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for pain.  
14. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO twice a day 
for 1 days.  
15. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
17. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
18. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.  
19. Calcium 500 + D (D3) 500-125 mg-unit Tablet Sig: Two (2) 
Tablet PO once a day.  
20. ergocalciferol (vitamin D2) 400 unit Tablet Sig: Two (2) 
Tablet PO once a day.  
21. Fiber-Tabs 625 mg Tablet Sig: Four (4) Tablet PO once a day. 
 
22. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
23. Omega ___ 1,200 mg Capsule Sig: One (1) Capsule PO once a 
day.  
24. terazosin 5 mg Capsule Sig: One (1) Capsule PO once a day.  
25. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO once a day. 
 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
for Rehabilitation and Sub-Acute Care)
 
Discharge Diagnosis:
Primary Diagnosis:
Hemorrhagic lesion in the brain
.
Secondary Diagnosis:
metastatic Renal Cell Cancer
Hypertension
Bradycardia
Pulmonary embolus
Hemoptysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You are being discharged from ___ 
___.  It was a pleasure taking care of you.  You were 
admitted to the hospital because of increasing headache and loss 
of vision on the right side.  We found that the lesion in your 
brain was hemorrhaging and your lovenox was stopped and you were 
started on IV steroids and medications to control your blood 
pressure.  You were initially admitted to the intensive care 
unit for monitoring.  Your blood pressure remained well 
controlled and you were transferred to the regular floor.  We 
are tapering your steroids and have switched you back to your 
home blood pressure medications.  Repeat MRI on ___ showed 
that the bleeding in the brain has remained stable and is not 
getting worse.  You were seen by physical therapy and it was 
felt you would be safest and best if you were discharged to 
Rehab for strength and gait training.  You will follow up with 
your outpatient oncologists for further care.
.
The following medications were STARTED:
Dexamethasone 4mg by mouth Daily
Keppra 500mg by mouth twice a day
Miralax 17gm by mouth Daily if you are not having bowel 
movements
.
The following medication was STOPPED:
Lovenox ___ two times a day
.
Please continue your other medications as prescribed.
 
Followup Instructions:
___